US09301951B2
Into a 500-mL round-bottom flask, was placed a solution of 3-(mercaptomethyl)benzoic acid (12 g, 71.43 mmol, 1.00 equiv) in acetonitrile (200 mL), and tert-butyl acrylate (60 mL), DBU (21.7 g, 142.76 mmol, 2.00 equiv). The resulting solution was stirred overnight at 80° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 200 mL of water and adjusted to pH 2˜3 with 10% hydrochloric acid. The resulting solution was extracted with 3×200 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (50:1). This resulted in 10.5 g (47%) of 34(3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid as red oil. 1H-NMR (300 MHz, CDCl3, ppm): δ 8.08 (s, 1H), 8.04 (d, J=7.8 Hz, 1H), 7.62 (d, J=7.8 Hz, 1H), 7.46 (t, 1H), 3.81 (s, 2H), 2.68 (t, 2H), 2.50 (t, 2H), 1.48 (s, 9H). MS (ES, m/z): 295 [M−H]−.

reactant | 3-(mercaptomethyl)benzoic acid | 71.43 mmol, 12 g, 1.00 equiv | SCC=1C=C(C(=O)O)C=CC1 | C8H8O2S
reactant | tert-butyl acrylate | 60 mL | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | DBU | 142.76 mmol, 21.7 g, 2.00 equiv | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
